US07592358B2
IP 5b. 1-benzyl-4-trifluoromethyl-1,2,3,6-tetrahydropyridine
3.00 g (79.36 mmol) of sodium borohydride was added batchwise to a solution of 14.48 g (52.91 mmol) of 1-benzyl-4-trifluoromethylpyridinium chloride in 100 mL of EtOH with strong cooling at 0° C., then the cooling was stopped and the reaction mixture was stirred for 1.5 hours at 14° C. While cooling, 50 mL of water and then 50 mL of EtOH were added within 30 minutes. The reaction mixture was stirred for another 30 minutes, the resulting suspension was filtered and the filtrate was evaporated down in vacuo. Yield: 11.72 g (92% of theoretical); C13H14F3N (M=241.252); calc.: molpeak (M+H)+: 242; found: molpeak (M+H)+: 242; HPLC-MS: 3.60 minutes (method B).

reactant | sodium borohydride | 79.36 mmol, 3.00 g | [BH4-].[Na+]
reactant | 1-benzyl-4-trifluoromethylpyridinium chloride | 52.91 mmol, 14.48 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C(F)(F)F
reactant | water | 50 mL | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1-benzyl-4-trifluoromethyl-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)C(F)(F)F | C13H14F3N
